US06177440B1
A suspension of 5-carbomethoxy-1,2-dihydro-2-(4-trifluoromethylphenyl)-9H-carbazol-4(3H)-one (1.57 g, 4.05 mM), benzyl bromide (0.49 ml, 4.13 mM), and potassium carbonate (1.12 g, 8.10 mM) in 20 mL DMF was stirred at room temperature for 22 hours. The mixture was diluted with EtOAc and 1N HCl. The layers were separated and the aqueous extracted with EtOAc. The combined EtOAc layers were extracted with 1N HCl, water, then brine. After drying (NaSO4), evaporation in vacuo afforded 1.87 g (96%) of the 9-[(phenyl)methyl]-5-carbomethoxy-2-(4-trifluoromethylphenyl)-1,2-dihydrocarbazol-4(3H)-one. 1H NMR (CDCl3) δ 7.6 (d, J=8 Hz, 2H), 7.45-7.25 (m, 8H), 6.95 (m, 2H), 5.35 (s, 2H), 4.05 (s, 3H), 3.65 (m, 1H), 3.2 (dd, J=16 and 5 Hz, 1H), 3.0 (dd, J=16 and 10 Hz, 1H), 2.8 (m, 2H). MS (ES) m/e 478.

reactant | 5-carbomethoxy-1,2-dihydro-2-(4-trifluoromethylphenyl)-9H-carbazol-4(3H)-one | 4.05 mM, 1.57 g | C(=O)(OC)C1=C2C=3C(CC(CC3NC2=CC=C1)C1=CC=C(C=C1)C(F)(F)F)=O | C21H16F3NO3
reactant | benzyl bromide | 4.13 mM, 0.49 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 8.10 mM, 1.12 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | HCl | 1N | Cl | ClH
product | 9-[(phenyl)methyl]-5-carbomethoxy-2-(4-trifluoromethylphenyl)-1,2-dihydrocarbazol-4(3H)-one | 1.87 g, 96% | C1(=CC=CC=C1)CN1C2=CC=CC(=C2C=2C(CC(CC12)C1=CC=C(C=C1)C(F)(F)F)=O)C(=O)OC | C28H22F3NO3
